US06900215B2
3-Bromo-7-(1,1-dimethoxyethyl)imidazo[1,2-α]pyrimidine was coupled with 4-fluoro-3-(pyridin-3-yl)benzeneboronic acid as described in Example 65 to give 7-(1,1-dimethoxyethyl)-3-[4-fluoro-3-(pyridin-3-yl)phenyl]imidazo[1,2-α]pyrimidine as an orange foam. This was dissolved in 2.5N hydrochloric acid and stirred at 50° C. for 15 h. After cooling to ambient temperature the reaction was neutralised by addition of solid sodium hydrogencarbonate and the resulting solid collected by filtration. The solid was dissolved in dichloromethane/methanol (1:1) and pre-adsorbed onto silica. Flash column chromatography on silica gel eluting with dichloromethane containing 1% ammonia and 5% methanol furnished 1-[3-(4-fluoro-3-(pyridin-3-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]ethanone as a yellow solid: δH (360 MHz, d6-DMSO) 2.71 (3H, s), 7.54-7.63 (3H, m), 7.84-7.88 (1H, m), 8.01 (1H, dd, J 8 and 2), 8.10-8.13 (1H, m), 8.34 (1H, s), 8.66 (1H, dd, J 5 and 2), 8.90 (1H, s), 9.24 (1H, d, J 7).

reactant | 3-Bromo-7-(1,1-dimethoxyethyl)imidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(C)(OC)OC | C10H12BrN3O2
reactant | 4-fluoro-3-(pyridin-3-yl)benzeneboronic acid | FC1=C(C=C(C=C1)B(O)O)C=1C=NC=CC1 | C11H9BFNO2
product | 7-(1,1-dimethoxyethyl)-3-[4-fluoro-3-(pyridin-3-yl)phenyl]imidazo[1,2-α]pyrimidine | COC(C)(OC)C1=NC=2N(C=C1)C(=CN2)C2=CC(=C(C=C2)F)C=2C=NC=CC2 | C21H19FN4O2
